US06569877B2
N-(2-Amino-5-chlorophenyl)-N-methylcarbamic acid t-butyl ester
A mixture of N-(2-nitro-5-chlorophenyl)-N-methylcarbamic acid t-butyl ester (6.0 g), dioxane (150 ml), water (30 ml), sodium hydrosulfite (14.6 g) and sodium hydrogencarbonate (17.6 g) was heated under reflux for 30 minutes. The reaction mixture was partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. The residue was chromatographed on a silica gel column using ethyl acetate/n-hexane (1/3) as the eluant to afford the title compound (2.98 g). Rf=0.23 (thin-layer chromatography on a silica gel plate using ethyl acetate/n-hexane (1/3) as the eluant).

reactant | N-(2-nitro-5-chlorophenyl)-N-methylcarbamic acid t-butyl ester | 6.0 g | C(C)(C)(C)OC(N(C)C1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C12H15ClN2O4
reactant | dioxane | 150 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydrosulfite | 14.6 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydrogencarbonate | 17.6 g | C(O)([O-])=O.[Na+]
solvent | water | 30 ml | O | H2O
product | N-(2-Amino-5-chlorophenyl)-N-methylcarbamic acid t-butyl ester | 2.98 g | C(C)(C)(C)OC(N(C)C1=C(C=CC(=C1)Cl)N)=O | C12H17ClN2O2
